US07652054B2
(a) 2-iso-Butylthiophene
A solution of thiophene (6.00 g, 0.0714 mol) in 80 mL of THF (80 mL) was treated with n-BuLi (1.6 M in hexane, 54 mL, 0.0864 mol) at −78° C. The mixture was stirred at −40° C. for about 2 hours. The solution was then cooled to −78° C. again and treated with 2-methylpropyliodide (16.04 g, 0.0871 mol). The solution was stirred at 0° C. for 2 hours, and then overnight at room temperature for about 16 hours. The solution was treated with water (25 mL) and extracted with petroleum ether (3×25 mL). The organic layer was dried over magnesium sulfate and filtered. The crude product was purified by distillation (54-55° C. at 12 mmHg) to give the sub-title compound (3.0 g, 0.0213 mol) in 30% yield.

reactant | thiophene | 0.0714 mol, 6.00 g | S1C=CC=C1 | C4H4S
reactant | n-BuLi | 0.0864 mol, 1.6 M, 54 mL | [Li]CCCC
reactant | 2-methylpropyliodide | 0.0871 mol, 16.04 g | CC(CI)C | C4H9I
reactant | water | 25 mL | O | H2O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 2-iso-Butylthiophene | 0.0213 mol, 3.0 g, 30% yield | C(C(C)C)C=1SC=CC1 | C8H12S
